US05047540
A solution of 240 mg (0.38 mM) of 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane in 2 ml of thiazole is stirred at 50° C. overnight. After thiazole is evaporated, the residue is recrystallized from dichloromethane-acetone to give 150 mg (0.209 mM) of 2-methoxy-1-octadecylcarbamoyloxy-3-(3-thiazoliopropylsulfonylamino)propane iodide Ia2 in 55% yield.

reactant | 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane | 0.38 mM, 240 mg | ICCCS(=O)(=O)NCC(COC(NCCCCCCCCCCCCCCCCCC)=O)OC | C26H53IN2O5S
reactant | thiazole | 2 ml | S1C=NC=C1 | C3H3NS
product | 2-methoxy-1-octadecylcarbamoyloxy-3-(3-thiazoliopropylsulfonylamino)propane iodide | 0.209 mM, 150 mg, 55% yield | [I-].COC(COC(NCCCCCCCCCCCCCCCCCC)=O)CNS(=O)(=O)CCCC=1SC=C[NH+]1 | InChI=1S/C29H55N3O5S2.HI/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21-31-29(33)37-26-27(36-2)25-32-39(34,35)24-19-20-28-30-22-23-38-28;/h22-23,27,32H,3-21,24-26H2,1-2H3,(H,31,33);1H
